US06054615
A 250-ml 3-necked flask equipped with a stir bar, condenser, nitrogen inlet and an addition funnel was charged with LiAlH4 (1.3 g) and 20 ml THF. To the mixture was added a THF (30 ml) solution of N,N-bis(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)-4,4,5,5,6,6,7,7,7-nonafluoroheptanamide (20.6 g, 25.4 mmol) dropwise at RT. The resulting mixture was refluxed for 30 min. After being cooled, the mixture was carefully treated with water (3 ml) to decompose excess LiAlH4. Another 50 ml water were added and the mixture was extracted with ether (3×100 ml). The combined ether extracts were washed with water, dried over Na2SO4, concentrated to give a residue which was distilled to afford tris(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)amine, 17.5 g, yield 86%, bp 153-155° C./270 Pa absolute. 19F NMR (CDCl3) -81.8 (tt, J=10, 3 Hz, 9F), -115.2 (m, 6F), -125.3 (m, 6F), -126.7 (m, 6F) ppm. 1H NMR (CDCl3) 1.92 (m, 6H), 2.10 (m, 6H), 2.48 (t, J=6 Hz, 6H) ppm. 13C NMR (CDCl3) 18.3, 28.7 (t, J=23 Hz), 52.9, 108-123 (m) ppm. Anal. Calcd. for C21H18F27N: C, 31.63; H, 2.28; N, 1.76; F 64.33. Found: C, 31.49; H, 2.52; N, 1.77; F, 64.52. MS (m/e) 550 (M+ -C4F9 (CH2)2, 100%), 512 (0.4%), 462 (0.6%), 362 (0.8%), 290 (11.3%), 276 (1.9%), 219 (0.3%), 169 (3.9%), 119 (7.1%), 69 (23.7%).

reactant | LiAlH4 | 1.3 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | N,N-bis(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)-4,4,5,5,6,6,7,7,7-nonafluoroheptanamide | 25.4 mmol, 20.6 g | FC(CCCN(C(CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)=O)CCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(C(C(C(F)(F)F)(F)F)(F)F)F | C21H16F27NO
solvent | water | 50 ml | O | H2O
solvent | water | 3 ml | O | H2O
product | tris(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)amine | yield 86% | FC(CCCN(CCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)CCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(C(C(C(F)(F)F)(F)F)(F)F)F | C21H18F27N
